US04971982
5.1 g of 2-iodoquinoline were added at room temperature to a solution of 18 mg of palladium(II) chloride, 52 mg of triphenylphosphine and 38 mg of copper(I) iodide in 100 ml of diethylamine. 3,7 g of 4-(1,1-dimethyl-2-propynyloxy)benzonitrile were added. After stirring at room temperature for 18 hours the mixture was evaporated and the residue was dissolved in ethyl acetate and water. The organic phase was dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether (1:2) for the elution to give 5.8 g of 4-[1,1-dimethyl-3-(2-quinolyl)-2-propynyloxy]benzonitrile as a yellow gum.

reactant | 2-iodoquinoline | 5.1 g | IC1=NC2=CC=CC=C2C=C1 | C9H6IN
reactant | 4-(1,1-dimethyl-2-propynyloxy)benzonitrile | 3,7 g | CC(C#C)(OC1=CC=C(C#N)C=C1)C | C12H11NO
solvent | diethylamine | 100 ml | C(C)NCC | C4H11N
catalyst | palladium(II) chloride | 18 mg | [Pd](Cl)Cl
catalyst | copper(I) iodide | 38 mg | [Cu]I
catalyst | triphenylphosphine | 52 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 4-[1,1-dimethyl-3-(2-quinolyl)-2-propynyloxy]benzonitrile | 5.8 g | CC(C#CC1=NC2=CC=CC=C2C=C1)(OC1=CC=C(C#N)C=C1)C | C21H16N2O
